US07776875B2
Preparation of Intermediate racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-hydroxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(5-chloro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
A mixture of racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-methoxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(5-chloro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (600 mg, 1 mmol), NaOH (80 mg, 2 mmol), H2O (3 mL) and methanol (10 mL) was heated at 70° C. for 2 h. After cooled to room temperature, the solution was concentrated and then the residue was acidified to “pH” 2-3 by addition of concentrated HCl. The white solid was collected by filtration to give the title compound as a white solid (50 mg).

reactant | racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-methoxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(5-chloro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 1 mmol, 600 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(C)(C)C(=O)OC)=O)C1=C(C=CC(=C1)Cl)C)=O | C30H27Cl3N2O5
reactant | NaOH | 2 mmol, 80 mg | [OH-].[Na+]
reactant | H2O | 3 mL | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-hydroxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(5-chloro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 50 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(C)(C)C(=O)O)=O)C1=C(C=CC(=C1)Cl)C)=O | C29H25Cl3N2O5
